### PR TITLE
[Merged by Bors] - feat: Self-adjoint LinearPMaps are densely defined

### PR DESCRIPTION
**Pull request by mcdoll**
Define the star on `LinearPMap` as the adjoint and prove that every self-adjoint operator is automatically densely defined.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/LinearPMap.lean [hunk 1]
```diff
@@ -243,3 +243,32 @@ theorem toPMap_adjoint_eq_adjoint_toPMap_of_dense (hp : Dense (p : Set E)) :
...
+
+variable [CompleteSpace E]
+
+instance instStar : Star (E →ₗ.[𝕜] E) where
+  star := fun A ↦ A.adjoint
+
+variable {A : E →ₗ.[𝕜] E}
+
+theorem isSelfAdjoint_def : IsSelfAdjoint A ↔ A† = A := by
+  rfl
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/LinearPMap.lean:259]:
```suggestion
theorem isSelfAdjoint_def : IsSelfAdjoint A ↔ A† = A := Iff.rfl
```

File: Mathlib/Analysis/InnerProductSpace/LinearPMap.lean [hunk 2]
```diff
@@ -243,3 +243,32 @@ theorem toPMap_adjoint_eq_adjoint_toPMap_of_dense (hp : Dense (p : Set E)) :
...
+
+theorem _root_.IsSelfAdjoint.dense_domain (hA : IsSelfAdjoint A) : Dense (A.domain : Set E) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/LinearPMap.lean:261]: Maybe add a docstring to this theorem, explaining that this property follows from our choice of junk value for the adjoint operator of an operator which is not densely defined.

**Comment by sgouezel** [comment]
bors r+
Thanks!
